US04370328
1-Benzyl-4-hydroxy piperidine (11.5 g.) dissolved in dry dimethylformamide (DMF) (25 ml.) was added dropwise to a stirred suspension of sodium hydride (2.8 g. of 50% dispersion in oil in dry DMF [25 ml.]), under dry nitrogen, and then stirred at room temperature for 3 hours. The suspension was cooled in an ice/water bath while 2-bromoacetaldehyde diethylacetal (13.0 g.) in dry dimethylformamide (25 ml.) was added dropwise, followed by stirring at room temperature for 24 hours. The above process was repeated to add more sodium hydride (2.8 g.) and the acetal (13.0 g.). Iso-propyl alcohol (50 ml.) was added, and the mixture was stirred for 1/2 hour, followed by filtration through "Hyflo" (Trademark). The filtrate was concentrated in vacuo, suspended in water (100 ml.) and basified to pH 11 with 5 N sodium hydroxide. After extraction with chloroform (2×100 ml.) the combined extracts were taken to dryness in vacuo to give an orange oil which was distilled in vacuo to give 1-benzyl-4-(2,2-diethoxyethoxy)-piperidine (14.1 g.), b.p. 152° C.@0.1 mm.

reactant | 1-Benzyl-4-hydroxy piperidine | 11.5 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | sodium hydride | 25 ml, 2.8 g | [H-].[Na+]
reactant | 2-bromoacetaldehyde diethylacetal | 13.0 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | Iso-propyl alcohol | 50 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-(2,2-diethoxyethoxy)-piperidine | 14.1 g | C(C1=CC=CC=C1)N1CCC(CC1)OCC(OCC)OCC | C18H29NO3
